US05098602
Into a flask of 50 ml were charged 1.84 g (7.4 mmol) of the above 4-(2-methyloctanoyl) anisole and 35 ml of dried toluene, and 8.68 g of anhydrous aluminum bromide was added thereto with stirring under ice cooling, which were then stirred at room temperature over a night. Thereafter, the mixture was stirred at 40° C. for 4 hours, air cooled and poured into 100 ml of ice water. After the extraction with 40 ml of toluene was repeated two times, the organic layer was washed with 80 ml of water and dried on magnesium sulfate. After the filtration and concentration, the product was dried under a reduced pressure to obtain 1.70 g (7.3 mmol, yield: 98%) of a reddish brown oily (+)-4-(2-methyloctanoyl) phenol having the following properties:

reactant | 4-(2-methyloctanoyl) anisole | 7.4 mmol, 1.84 g | CC(C(=O)C1=CC=C(C=C1)OC)CCCCCC | C16H24O2
reactant | aluminum bromide | 8.68 g | [Br-].[Al+3].[Br-].[Br-]
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-4-(2-methyloctanoyl) phenol | 7.3 mmol, 1.70 g, yield: 98% | CC(C(=O)C1=CC=C(C=C1)O)CCCCCC | C15H22O2
